US07244725B2
B.9. Benzyl 4-{[(2R,3S)-3-(acetylamino)-4-(3,5-difluorophenyl)-2-hydroxybutyl]amino}-6-neopentyl-3,4-dihydroquinoline-1(2H)-carboxylate
To a solution of benzyl 4-{[(2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl]amino}-6-neopentyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.226 g) in dichloromethane (5 mL) was added N,N-diacetyl-O-methylhydroxylamine (0.064 9). The mixture was stirred over the weekend at room temperature. The solvent was then removed under reduced pressure and the residue was partitioned between 1N HCl and ethyl acetate, dried with magnesium sulfate, filtered, and concentrated to give 0.243 g of the title compound. (99% yield). MS (ESI+) for C34H41F2N3O4 m/z 594.31 (M+H)+.

reactant | benzyl 4-{[(2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl]amino}-6-neopentyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.226 g | N[C@H]([C@@H](CNC1CCN(C2=CC=C(C=C12)CC(C)(C)C)C(=O)OCC1=CC=CC=C1)O)CC1=CC(=CC(=C1)F)F | C32H39F2N3O3
reactant | N,N-diacetyl-O-methylhydroxylamine | C(C)(=O)N(OC)C(C)=O | C5H9NO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Benzyl 4-{[(2R,3S)-3-(acetylamino)-4-(3,5-difluorophenyl)-2-hydroxybutyl]amino}-6-neopentyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.243 g, 99% yield | C(C)(=O)N[C@H]([C@@H](CNC1CCN(C2=CC=C(C=C12)CC(C)(C)C)C(=O)OCC1=CC=CC=C1)O)CC1=CC(=CC(=C1)F)F | C34H41F2N3O4
